US08119685B2
Methyl 4-{acetyl [2-(dimethylamino) ethyl]amino}benzoate
Acetic anhydride (0.170 ml, 1.800 mmol) was added to methyl 4-{[2-(dimethylamino)ethyl]amino}benzoate (0.2 g, 0.900 mmol) stirred in triethylamine (0.502 ml, 3.60 mmol) and CH2Cl2 (2 ml). The mixture was stirred at room temperature for 2 h and then concentrated. The product was used without further purification. MS: cal'd 265 (MH+), exp 265 (MH+).

reactant | Acetic anhydride | 1.800 mmol, 0.170 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 4-{[2-(dimethylamino)ethyl]amino}benzoate | 0.900 mmol, 0.2 g | CN(CCNC1=CC=C(C(=O)OC)C=C1)C | C12H18N2O2
reactant | triethylamine | 3.60 mmol, 0.502 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-{acetyl [2-(dimethylamino) ethyl]amino}benzoate | C(C)(=O)N(C1=CC=C(C(=O)OC)C=C1)CCN(C)C | C14H20N2O3
